US09380782B2
Under ice-cooling, to N,N-dimethylformamide 250 mL was added anhydrous aluminum chloride 21.9 g and the resulting mixtures were stirred for fifteen minutes. Thereto was added sodium azide 10.7 g and the resulting mixtures were stirred for fifteen minutes and thereto was then added 1-chloro-3-isocyanato-2-methylbenzene 25.0 g and the resulting mixtures were heated at 80° C. for five hours. After cooling the mixtures, to a mixture of sodium nitrite g, water 2 L and ice 500 g was added the reaction solutions with stirring. The mixtures were acidified with 10% hydrochloric acid and were extracted with ethyl acetate. The organic layers were washed with water and saturated saline, and were dried over anhydrous magnesium sulfate and were then concentrated under reduced pressure to give 1-(2-methyl-3-chlorophenyl)-1,4-dihydrotetrazole-5-one 17.0 g.

reactant | aluminum chloride | 21.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium azide | 10.7 g | [N-]=[N+]=[N-].[Na+]
reactant | 1-chloro-3-isocyanato-2-methylbenzene | 25.0 g | ClC1=C(C(=CC=C1)N=C=O)C | C8H6ClNO
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 2 L | O | H2O
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 1-(2-methyl-3-chlorophenyl)-1,4-dihydrotetrazole-5-one | 17.0 g | CC1=C(C=CC=C1Cl)N1N=NNC1=O | C8H7ClN4O
